US07855227B2
Step D 2-[4-Fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethylamine
800 mg (10 mmol) of borane-methyl sulfide complex were added to a solution of 1.23 g (5.27 mmol) of [4-fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-acetonitrile in 50 ml of dry tetrahydrofuran. The reaction mixture was refluxed for 4 hours. Solvent was removed and then water was added. A first extraction with diethyl ether allowed to partially purify the crude reaction mixture. The resulting aqueous layer was then basified with NH4OH, and the product was extracted with dichloromethane. After removal of the solvent 1 g (80% yield) of the title compound was isolated as a yellow solid.

reactant | [4-fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-acetonitrile | 5.27 mmol, 1.23 g | FC1=C(C=C(C=C1)CC#N)OCC(F)(F)F | C10H7F4NO
reactant | NH4OH | [NH4+].[OH-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[4-Fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethylamine | FC1=C(C=C(C=C1)CCN)OCC(F)(F)F | C10H11F4NO
